US09034850B2
Step A. {(R)-2-[5-(4-chloro-butyrylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester
To a solution of {(R)-2-[5-amino-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester (42 mg, 0.089 mmol) in dichloromethane (2 mL) were added triethylamine (25 μl, 0.178 mmol) and 4-chloro-butyryl chloride (11 μl, 0.097 mmol) in the order. The solution was stirred at room temperature for 2 hrs and concentrated. The residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate/dichloromethane, 2/1/1) and dried in a vacuum to afford 40 mg of the compound as a colorless oil (yield 78%). 1H NMR (300 MHz, CDCl3) δ 1.33 (9H, s), 2.17 (2H, p), 2.57 (2H, t), 3.63 (2H, t), 4.10 (1H, m), 4.34 (1H, t), 4.99-5.14 (3H, m), 5.47 (1H, d), 6.96 (2H, m), 7.24-7.39 (6H, m), 7.72 (1H, s), 8.65 (1H, s)

reactant | {(R)-2-[5-amino-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 0.089 mmol, 42 mg | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)N)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C24H26F2N4O4
reactant | triethylamine | 0.178 mmol, 25 μl | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-butyryl chloride | 0.097 mmol, 11 μl | ClCCCC(=O)Cl | C4H6Cl2O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | {(R)-2-[5-(4-chloro-butyrylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 40 mg, yield 78% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)NC(CCCCl)=O)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C28H31ClF2N4O5
